US05107013
2-Acetyl-6-methoxynaphthalene
80 Ml of anisole and 18 g of anhydrous aluminum chloride are added to the solution of 2-acetyl-5-bromo-6-methoxynaphthalene obtained as in example 1a), while keeping the temperature at -10° C. The reaction mixture is kept for 24 hours under stirring at room temperature and then it is worked as in example 1 obtaining 38.5 g of product with a yield equal to 78.5% calculated on the basis of the starting material 1-bromo-2-methoxynaphthalene.

reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | aluminum chloride | 18 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-acetyl-5-bromo-6-methoxynaphthalene | C(C)(=O)C1=CC2=CC=C(C(=C2C=C1)Br)OC | C13H11BrO2
reactant | 1-bromo-2-methoxynaphthalene | BrC1=C(C=CC2=CC=CC=C12)OC | C11H9BrO
product | 2-Acetyl-6-methoxynaphthalene | C(C)(=O)C1=CC2=CC=C(C=C2C=C1)OC | C13H12O2
